US07262212B2
1-Aminopiperazine (29 g, 287 mmol) was dissolved in isopropyl alcohol (173 ml), to which 5-chlorobenzofuran-2-aldehyde (34.52 g, 191 mmol) was added, and the mixture was stirred at room temperature for 16 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to afford piperazin-1-yl-(5-chlorobenzofuran-2-yl methylene)amine (49.49 g, yield 98%) as a yellow crystalline powder.

reactant | 1-Aminopiperazine | 287 mmol, 29 g | NN1CCNCC1 | C4H11N3
reactant | 5-chlorobenzofuran-2-aldehyde | 191 mmol, 34.52 g | ClC=1C=CC2=C(C=C(O2)C=O)C1 | C9H5ClO2
solvent | isopropyl alcohol | 173 ml | C(C)(C)O | C3H8O
product | piperazin-1-yl-(5-chlorobenzofuran-2-yl methylene)amine | 49.49 g, yield 98% | N1(CCNCC1)N=CC=1OC2=C(C1)C=C(C=C2)Cl | C13H14ClN3O
